US08039469B2
Preparation of ((2S,5R)-1-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)pyrrolidine-2,5-diyl)dimethanol
A suspension of ((2S,5R)-1-(4-chloro-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)pyrrolidine-2,5-diyl)dimethanol (0.91 g, 2.5 mmol), 3-oxa-8-azabicyclo[3.2.1]octane hydrochloride (0.37 g, 2.5 mmol) in ethanol (13 mL) was treated with triethylamine (1 mL) and heated in a microwave reactor for 20 minutes at 130° C. The reaction mixture was purified by automated flash chromatography (methanol/chloroform) to provide the title compound as a hard peach colored foam. MS (ES+)=443.2 (M+H)+.

reactant | ((2S,5R)-1-(4-chloro-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)pyrrolidine-2,5-diyl)dimethanol | 2.5 mmol, 0.91 g | ClC1=NC(=NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])N1[C@@H](CC[C@@H]1CO)CO | C15H16ClN5O4
reactant | 3-oxa-8-azabicyclo[3.2.1]octane hydrochloride | 2.5 mmol, 0.37 g | Cl.C12COCC(CC1)N2
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 13 mL | C(C)O | C2H6O
product | ((2S,5R)-1-(4-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-6-(4-nitrophenyl)-1,3,5-triazin-2-yl)pyrrolidine-2,5-diyl)dimethanol | C12COCC(CC1)N2C2=NC(=NC(=N2)C2=CC=C(C=C2)[N+](=O)[O-])N2[C@@H](CC[C@@H]2CO)CO | C21H26N6O5
